US08563565B2
(2) Synthesis of (S)-7-(6-ethoxy-2,4-dimethylpyridin-3-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
Ethyl 5-[4-(6-ethoxy-2,4-dimethylpyridin-3-yl)-2-nitrophenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate (97 mg) was dissolved in acetic acid (1 mL). Iron powder (56 mg) was added to the solution, and the mixture was stirred at 90° C. for four hours. The reaction mixture was returned to room temperature, and water (2 mL) was added to the reaction mixture. The precipitated solid was collected by filtration and washed with water. The resulting solid was dissolved in ethanol (1 mL) at 90° C. The solution was ice-cooled, and the precipitated solid was collected by filtration. The resulting solid was washed with MTBE to give the title compound (16 mg).

reactant | Ethyl 5-[4-(6-ethoxy-2,4-dimethylpyridin-3-yl)-2-nitrophenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 97 mg | C(C)OC1=CC(=C(C(=N1)C)C1=CC(=C(C=C1)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC)[N+](=O)[O-])C | C25H28N4O6
reactant | water | 2 mL | O | H2O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 56 mg | [Fe] | Fe
product | (S)-7-(6-ethoxy-2,4-dimethylpyridin-3-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 16 mg | C(C)OC1=CC(=C(C(=N1)C)C=1C=CC=2C3=C(C(NC2C1)=O)C=NN3[C@@H]3COCC3)C | C23H24N4O3
